US08629277B2
N-hydroxy-nicotinimidamide
To a solution of 5.012 g (72.1 mmol) of hydroxylamine hydrochloride in 55 mL of isopropyl alcohol, 8.8 g (105.7 mmol) of sodium bicarbonate was added. The resulting mixture was stirred at 25° C. to 30° C. for 10-15 min. 5.0 g (48 mmol) of 3-cyanopyridine was added and stirred at 80° C. to 85° C. for 3-4 h. After completion of the reaction, the reaction mixture was cooled to 25° C. to 30° C., filtered and washed with 10 mL of isopropyl alcohol. The filtrate was collected and distilled to obtain a crude residue, which was chased with 5 mL of toluene to yield the title compound.

reactant | hydroxylamine hydrochloride | 72.1 mmol, 5.012 g | Cl.NO
reactant | sodium bicarbonate | 105.7 mmol, 8.8 g | C([O-])(O)=O.[Na+]
reactant | 3-cyanopyridine | 48 mmol, 5.0 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropyl alcohol | 55 mL | C(C)(C)O | C3H8O
product | N-hydroxy-nicotinimidamide | ONC(C1=CN=CC=C1)=N | C6H7N3O
